US05096890
Preparation of 5-(2-bromoethyl)-2,3-dihydrobenzofuran
Phosphorus tribromide (0.37 g) was added to a solution of 5-(2-hydroxyethyl)-2,3-dihydrobenzofuran (0.612 g --see Preparation 12) in carbon tetrachloride (3 ml) and the mixture was heated under reflux for 3 hours. On cooling to room temperature, the mixture was partitioned between 10% aqueous sodium carbonate (20 ml) and dichloromethane (20 ml). The layers were separated and the aqueous layer was extracted with dichloromethane (2×10 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give the title compound as an oil which crystallised on standing, yield 0.584 g, m.p. 60°-62° C.

reactant | Phosphorus tribromide | 0.37 g | P(Br)(Br)Br | Br3P
reactant | 5-(2-hydroxyethyl)-2,3-dihydrobenzofuran | 0.612 g | OCCC=1C=CC2=C(CCO2)C1 | C10H12O2
solvent | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(2-bromoethyl)-2,3-dihydrobenzofuran | BrCCC=1C=CC2=C(CCO2)C1 | C10H11BrO
